US07601711B2
5-(4-Isopropyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester
To the solution of 5.0 g (21.4 mmol) 1H-indole-2,5-dicarboxylic acid 2-ethyl ester (prepared according to J. Org. Chem. 1953, 18, 345-57) in 50 mL N,N-dimethylformamide, 8.6 g (26.8 mmol) O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (commercially available) were added. After 10 min., 3.44 g (26.8 mmol) 1-isopropylpiperazine (commercially available) and 18.3 mL (13.9 g, 107.4 mmol) N,N-diisopropylethylamine were added. After 45 min. the reaction mixture was poured on saturated aqueous sodium bicarbonate solution and was extracted three times with ethyl acetate. The combined organic layers were washed three times with water followed by brine, dried over magnesium sulfate, filtered and evaporated. The residue was flash-chromatographed on silica gel with dichloromethane:methanol:ammonia (9:1:0.1 v/v) and ethyl acetate: methanol (9:1) as eluant to give 5.5 g (74%) of the desired compound as a light yellow solid.

reactant | 1H-indole-2,5-dicarboxylic acid 2-ethyl ester | 21.4 mmol, 5.0 g | CCOC(=O)C=1NC2=CC=C(C=C2C1)C(=O)O | C12H11NO4
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 26.8 mmol, 8.6 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-isopropylpiperazine | 26.8 mmol, 3.44 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | N,N-diisopropylethylamine | 107.4 mmol, 18.3 mL, 13.9 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 5-(4-Isopropyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester | 5.5 g, 74% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCN(CC1)C(C)C | C19H25N3O3
